US07795283B2
iv) Ethyl 2-[1-(5-amino-3-methylpyridin-2-yl)piperidin-4-yl]propanoate
Ethyl 2-[1-(3-methyl-5-nitropyridin-2-yl)piperidin-4-ylidene]propanoate (2.30 g; 7.20 mmol) was suspended in EtOH (100 mL) and treated with 10% Pd/C (230 mg). The resulting mixture was placed under an atmosphere of hydrogen (balloon) at ambient temperature and stirred vigorously at ambient temperature for 2 hrs. LCMS indicated no reduction of alkene but reduction of the nitro-group was essentially complete. The catalyst was filtered off and the filtrate was evaporated to a gum (2.42 g). The reaction was repeated under 20 bar of hydrogen, at 30° C., for 3 hrs with 241 mg 10% Pd/C catalyst. The catalyst was filtered off (Celite) and the solvent removed under vacuum to leave a dark blue gum (2.12 g). This was used in the next step without further purification. 1H NMR δ 1.06 (d, 3H), 1.18 (t, 3H), 1.24-1.43 (m, 2H), 1.45-1.63 (m, 2H), 1.61-1.74 (m, 1H), 2.06 (s, 3H), 2.21-2.35 (m, 1H), 2.50-2.63 (m, 1H), 2.99-3.13 (m, 2H), 3.36-3.50 (m, 1H), 3.98-4.14 (m, 2H), 4.65 (s, 2H), 6.76 (d, 1H), 7.47 (d, 1H). MS m/e MH+ 292.27.

reactant | Ethyl 2-[1-(3-methyl-5-nitropyridin-2-yl)piperidin-4-ylidene]propanoate | 7.20 mmol, 2.30 g | CC=1C(=NC=C(C1)[N+](=O)[O-])N1CCC(CC1)=C(C(=O)OCC)C | C16H21N3O4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd/C | 230 mg | [Pd] | Pd
product | Ethyl 2-[1-(5-amino-3-methylpyridin-2-yl)piperidin-4-yl]propanoate | 2.12 g | NC=1C=C(C(=NC1)N1CCC(CC1)C(C(=O)OCC)C)C | C16H25N3O2
